US05049669
10-[1-(1-Pyrrolidinyl)-2-propyl]-2-phenothiazinecarbonitrile hydrochloride, L series (5 g) is added to a solution of potassium hydroxide (1.75 g) in glycol (30 cc), and the mixture is stirred for 4 hours under reflux. After being cooled, the yellow solution obtained is diluted with acetone (75 cc) and a 3N solution (5 cc) of hydrochloric acid in ethyl ether, filtered and diluted again with acetone (75 cc) and a 3N solution (5 cc) of hydrochloric acid in ethyl ether. After priming, the mixture is left to crystallize for 16 hours at a temperature in the region of 5° C. The solid obtained is drained, washed with ethyl ether (10 cc) and dried under reduced pressure (5 mm Hg; 0.7 kPa) at 40° C. 10-[1-(1-Pyrrolidinyl)-2-propyl]-2-phenothiazinecarboxylic acid hydrochloride, L series (2.9 g) is thereby obtained in the form of a pale yellow solid, m.p. 200-210° C. (melts forming a paste).

reactant | 10-[1-(1-Pyrrolidinyl)-2-propyl]-2-phenothiazinecarbonitrile hydrochloride | Cl.N1(CCCC1)CC(C)N1C2=CC=CC=C2SC=2C=CC(=CC12)C#N
reactant | potassium hydroxide | 1.75 g | [OH-].[K+]
reactant | acetone | 75 cc | CC(=O)C | C3H6O
product | 10-[1-(1-Pyrrolidinyl)-2-propyl]-2-phenothiazinecarboxylic acid hydrochloride | Cl.N1(CCCC1)CC(C)N1C2=CC=CC=C2SC=2C=CC(=CC12)C(=O)O | InChI=1S/C20H22N2O2S.ClH/c1-14(13-21-10-4-5-11-21)22-16-6-2-3-7-18(16)25-19-9-8-15(20(23)24)12-17(19)22;/h2-3,6-9,12,14H,4-5,10-11,13H2,1H3,(H,23,24);1H
